US07244843B2
(3R,11aR)-1,2,3,4,11,11a-Hexahydro-2-benzyl-3-methyl-pyrazino[1,2-b]isoquinolin-6-one (81 mg, 0.26 mmol) and 10% palladium on carbon (25 mg) in methanol (6.5 ml) was stirred under a balloon of hydrogen for 19 h. Evapoaration of the filtrate after filtration through Celite® afforded pure (3R,11aR)-1,2,3,4,11,11a-hexahydro-3-methyl-pyrazino[1,2-b]isoquinolin-6-one (56 mg, 83% yield). MS (ESI) 217 (M+H).

reactant | (3R,11aR)-1,2,3,4,11,11a-Hexahydro-2-benzyl-3-methyl-pyrazino[1,2-b]isoquinolin-6-one | 0.26 mmol, 81 mg | C(C1=CC=CC=C1)N1C[C@@H]2N(C(C=3C=CC=CC3C2)=O)C[C@H]1C | C20H22N2O
reactant | hydrogen | [H][H] | H2
catalyst | palladium on carbon | 25 mg | [Pd] | Pd
solvent | methanol | 6.5 ml | CO | CH4O
product | (3R,11aR)-1,2,3,4,11,11a-hexahydro-3-methyl-pyrazino[1,2-b]isoquinolin-6-one | 56 mg, 83% yield | C[C@H]1NC[C@@H]2N(C(C=3C=CC=CC3C2)=O)C1 | C13H16N2O
